US08975265B2
Step 1: {1-[4-(6-formyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester
A solution of {1-[4-(6-hydroxymethyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (200 mg) and triethylamine (0.125 mL) in DCM (1.9 mL) at 0° C. was treated with a solution of pyridine-sulfur trioxide complex (142 mg, 0.894 mmol) in DMSO (0.021 mL). The reaction mixture was warmed to rt and stirred for 2 hours. The mixture was partitioned between ethyl acetate and water and the organic phase washed with water, dried and concentrated in vacuo to give the crude title compound which was used in the next step without further purification.

reactant | {1-[4-(6-hydroxymethyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 200 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)CO)C1C1=CC=CC=C1)=O | C29H31N3O3
reactant | triethylamine | 0.125 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 1.9 mL | C(Cl)Cl | CH2Cl2
solvent | DMSO | 0.021 mL | CS(=O)C | C2H6OS
product | {1-[4-(6-formyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C=O)C1C1=CC=CC=C1)=O | C29H29N3O3
